US06599925B2
2-(6-Methoxy-naphthalen-2-yl)-3-pentyl-benzofuran
The solution of 1-[2-(6-methoxy-naphthalen-2-yl)-benzofuran-3-yl]-pentan-1-ol (15.5 g, 43 mmol) and triethyl silane (10 g, 86 mmol) in methylene chloride (300 mL) was cooled in an ice bath. Trifluoro acetic acid (50 mL) was added gradually. The mixture was stirred at while cooling for 2 hours then was allowed to warm to room temperature. The solvent was evaporated. The residue was dissolved in ether and washed with sodium bicarbonate solution, then with water. The solvent was evaporated and the residue was purified by flash chromatography on silica gel using 4% ethyl acetate in hexane as the mobile phase. The product was obtained as a clear oil (8.9 g). 1HNMR (300 MHz, DMSO-d6): δ8.22 (s, 1H), 7.98-7.92 (m, 2H), 7.95-7.90 (m, 2H), 7.64 (d, 1H, J=8.8 Hz), 7.65 (d, 1H, J=8.8 Hz), 7.58 (d, 1H, J=8.8 Hz), 7.38-7.20 (m, 4H), 3.90 (s, 3H), 2.96 (t, 1H, J =9.9 Hz), 1.70 (p, 1H, J=7.0 Hz), 1.42-1.26 (m, 4H), and 0.82 ppm (t, 3H, J=7.4 Hz).

reactant | 1-[2-(6-methoxy-naphthalen-2-yl)-benzofuran-3-yl]-pentan-1-ol | 43 mmol, 15.5 g | COC=1C=C2C=CC(=CC2=CC1)C=1OC2=C(C1C(CCCC)O)C=CC=C2 | C24H24O3
reactant | triethyl silane | 86 mmol, 10 g | C(C)[SiH](CC)CC | C6H16Si
reactant | Trifluoro acetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 2-(6-Methoxy-naphthalen-2-yl)-3-pentyl-benzofuran | 8.9 g | COC=1C=C2C=CC(=CC2=CC1)C=1OC2=C(C1CCCCC)C=CC=C2 | C24H24O2
